US08476294B2
Stage 183.1.2 3-Bromo-5-difluoromethoxy-pyridine
A mixture of 3-bromo-5-hydroxypyridine (Aldrich, Buchs, Switzerland, 1.394 mmol), sodium chlorodifluoroacetate (Aldrich, Buchs, Switzerland, 1.672 mmol) and potassium carbonate (2.79 mmol) in acetonitrile (10 ml) was refluxed for 4 h 45 min. The reaction was cooled and diluted with dichloromethane, washed with saturated aqueous NaHCO3, with brine, dried over Na2SO4, filtered and evaporated. The residue was taken in DMA and purified by preparative HPLC. The fractions containing product were basified with NaHCO3, concentrated and extracted with dichloromethane (2×). The combined organic layers were washed with brine, dried over Na2SO4, filtered, evaporated to give the title compound as a brown oil. (HPLC: tR 2.91 min (Method A); M+H=224, 226 MS-ES).

reactant | 3-bromo-5-hydroxypyridine | 1.394 mmol | BrC=1C=NC=C(C1)O | C5H4BrNO
reactant | sodium chlorodifluoroacetate | 1.672 mmol | ClC(C(=O)[O-])(F)F.[Na+]
reactant | potassium carbonate | 2.79 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Bromo-5-difluoromethoxy-pyridine | BrC=1C=NC=C(C1)OC(F)F | C6H4BrF2NO
